US07238716B2
To a mixture of methyl 2-[5-chloro-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate (0.68 g), tetrahydrofuran (2 mL) and methanol (2 mL) was added a 1N aqueous sodium hydroxide solution (2.8 mL) and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid (3 mL) and water were added to the reaction mixture, and the precipitated solid was collected by filtration, and dried with air to give crystals (0.63 g, 97%) of 2-[5-chloro-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 160-161° C.

reactant | methyl 2-[5-chloro-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 0.68 g | ClC=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H24ClNO5
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 2.8 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2-[5-chloro-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | 0.63 g, 97% | ClC=1C=CC(=C(C1)CC(=O)O)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H22ClNO5
